US07105563B2
5-Aminomethylindolin-2-one (160 mg, 1 mmol), 2-acetylpyrrole (190 mg, 1.74 mmol) and piperidine (0.4 mL) were mixed together in a microwave reaction vessel and heated to 160° C. for 8 minutes in a microwave reactor. The resulting black-colored solid was dissolved in DMSO and purified by reverse phase HPLC (acetonitrile/water) to afford 5-((1-pyrrol-2-yl)ethylidene)aminomethyl-3-[1-(pyrrol-2-yl)ethylidene]indolin-2-one; (20 mg), as a trifluoroacetate salt; 1H NMR (400 MHz, DMSO) δ 2.74 (s, 3H) 2.76 (s, 3H), 4.90 (d, 2H), 6.34 (m, 1H), 6.50 (m, 1H), 6.92 (d, 1H), 7.08 (m, 1H), 7.24 (d, 1H), 7.42 (s, 1H), 7.60 (m, 2H), 7.78 (s, 1H), 11.20 (s, 1H), 11.28 (brs, 1H) ppm.

reactant | 5-Aminomethylindolin-2-one | 1 mmol, 160 mg | NCC=1C=C2CC(NC2=CC1)=O | C9H10N2O
reactant | 2-acetylpyrrole | 1.74 mmol, 190 mg | C(C)(=O)C=1NC=CC1 | C6H7NO
reactant | piperidine | 0.4 mL | N1CCCCC1 | C5H11N
reactant | DMSO | CS(=O)C | C2H6OS
product | 5-((1-pyrrol-2-yl)ethylidene)aminomethyl-3-[1-(pyrrol-2-yl)ethylidene]indolin-2-one | N1C(=CC=C1)C(C)=NCC=1C=C2C(C(NC2=CC1)=O)=C(C)C=1NC=CC1 | C21H20N4O
